US06596751B2
3-[4-[6-(3,5-Di-t-butyl-4-hydroxyphenylthio)-1-methyl-1H-benzimidazol-2-ylmethoxy]phenyl]-2-(4-fluorobenzyloxy)propionic acid (exemplification compound number 1-86)
Reaction and isolation were conducted in a similar procedure to that described in Example 2 using methyl 3-[4-[6-(3,5-di-t-butyl4-hydroxyphenylthio)-1-methyl-1H-benzimidazol-2-ylmethoxy]phenyl]-2-(4-fluorobenzyloxy)propionate (0.22 g), aqueous 2N sodium hydroxide solution (2 ml) and methanol (5 ml) to afford the title compound (0.13 g, mp 40-46° C.).

reactant | methyl 3-[4-[6-(3,5-di-t-butyl4-hydroxyphenylthio)-1-methyl-1H-benzimidazol-2-ylmethoxy]phenyl]-2-(4-fluorobenzyloxy)propionate | 0.22 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC(C(=O)OC)OCC2=CC=C(C=C2)F)C)C1 | C40H45FN2O5S
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-[4-[6-(3,5-Di-t-butyl-4-hydroxyphenylthio)-1-methyl-1H-benzimidazol-2-ylmethoxy]phenyl]-2-(4-fluorobenzyloxy)propionic acid | 0.13 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC(C(=O)O)OCC2=CC=C(C=C2)F)C)C1 | C39H43FN2O5S
